US04028373
3-CHLOROTHIOPHENE-2-CARBOXYLIC ACID (IV)
14.5 liters of absolute carbon tetrachloride (refluxed for 1 hour with 500 g of P2O5 and then distilled) is placed in a 25 liter apparatus equipped with stirrer, dropping funnel, drainage cock and reflux condenser with gas outlet; while stirring, 2,200 g (10.05 moles) of PCl5 is added. Upon refluxing the mixture the PCl5 goes into solution (a small amount of PCl5 settles in the drainage cock). 660 g (4.18 moles) of methyl 3-hydroxythiophene-2-carboxylate (prepared as described in German Pat. No. 1,020,641) dissolved in 2 liters of absolute carbon tetrachloride is allowed to flow at a just continuous rate over a period of 4 hours into the boiling solution (vigorous evolution of HCl).

reactant | P2O5 | 500 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | PCl5 | 10.05 moles, 2,200 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methyl 3-hydroxythiophene-2-carboxylate | 4.18 moles, 660 g | OC1=C(SC=C1)C(=O)OC | C6H6O3S
reactant | HCl | Cl | ClH
solvent | carbon tetrachloride | 2 liters | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 14.5 liters | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-CHLOROTHIOPHENE-2-CARBOXYLIC ACID | ClC1=C(SC=C1)C(=O)O | C5H3ClO2S
